US05532248
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18ene-2,3,10,16-tetraone (100 mg, 0.126 mmol, 1 eq) Cu(OAc)2 (3 mg, 0.0165 mmol, 0.13 eq) in CH2Cl2 (1 ml) in a 4 mL screw cap vial equipped with a magnetic stir-bar was added tri(4-tolyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.030 ml, 0.525 mmol, 4.2 eq) to a suspension of tri(4-tolyl)bismuth carbonate (130 mg, 0.234 mmol, 1.86 eq) in CH2Cl2 (1 ml)]. The reaction vessel was capped and the mixture stirred for 20 hours at which time TLC analysis showed the reaction to be incomplete. The mixture was treated with additional tri(4-tolyl)bismuth diacetate(0.234 mmol) and stirred for 24 hours then poured into saturated aqueous NaHCO3 and extracted 2 times with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product was isolated by preparative TLC on silica gel (eluted with 2:1 hexanes/EtOAc) to give 47 mg 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone. (1H NMR, 13C NMR, and mass spectral analysis were consistent with the desired structure.)

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | tri(4-tolyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1(=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C
reactant | acetic acid | 0.525 mmol, 0.030 ml, 4.2 eq | C(C)(=O)O | C2H4O2
reactant | tri(4-tolyl)bismuth carbonate | 0.234 mmol, 130 mg, 1.86 eq | C(O)(O)=O.C1(=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C
reactant | tri(4-tolyl)bismuth diacetate | 0.234 mmol | C(C)(=O)O.C(C)(=O)O.C1(=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(4'"-methylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 47 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C(C=C2)C)OC)C)C)O)=O | C50H75NO12
